US06071903
Methyl 1-([1,1'-Biphenyl]-2-carbonyl)-4-(4-methoxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate
To a mixture of 1.5 g (3.8 mmol) of methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate and 2.65 ml of triethylamine in 12 ml of CH2Cl2 chilled at 0° C. was added a solution of [1,1'-biphenyl]-2-carbonyl chloride in 6 ml of CH2Cl2. The mixture was stirred at room temperature overnight and diluted with CH2Cl2 and H2O. The organic layer was separated and washed with 2 N citric acid, brine and dried-with Na2SO4. The solvent was removed under vacuum to give 2.2 g of a white foam. Anal. for C31H28N2O6S: Calc'd: C,66.9; H,5.1; N,5.0; Found: C,67.3; H,5.2; N,4.7.

reactant | methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate | 3.8 mmol, 1.5 g | NC1=C(CN(C(C(=O)OC)CO)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C18H22N2O6S
reactant | triethylamine | 2.65 ml | C(C)N(CC)CC | C6H15N
reactant | [1,1'-biphenyl]-2-carbonyl chloride | C=1(C(=CC=CC1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | Methyl 1-([1,1'-Biphenyl]-2-carbonyl)-4-(4-methoxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | 2.2 g | C=1(C(=CC=CC1)C(=O)N1CC(N(CC2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)OC)C(=O)OC)C2=CC=CC=C2 | C31H28N2O6S
